US07091220B2
[(2-Chloro-6-fluoro-phenyl)-(1-ethyl-2-phenyl-1H-indol-3-yl)-methyl]-dimethylamine
The preparation was carried out in accordance with general synthesis instructions 4 from 1-ethylindole and (2-chloro-6-fluoro-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 2-chloro-6-fluoro-benzaldehyde and dimethylamine.

reactant | 1-ethylindole | C(C)N1C=CC2=CC=CC=C12 | C10H11N
reactant | (2-chloro-6-fluoro-benzylidene)-dimethyl-ammonium chloride | [Cl-].ClC1=C(C=[N+](C)C)C(=CC=C1)F
reactant | 2-chloro-6-fluoro-benzaldehyde | ClC1=C(C=O)C(=CC=C1)F | C7H4ClFO
reactant | dimethylamine | CNC | C2H7N
product | [(2-Chloro-6-fluoro-phenyl)-(1-ethyl-2-phenyl-1H-indol-3-yl)-methyl]-dimethylamine | ClC1=C(C(=CC=C1)F)C(C1=C(N(C2=CC=CC=C12)CC)C1=CC=CC=C1)N(C)C | C25H24ClFN2
